US08541588B2
3-cyano-4-[2-(5-methyl-1H-pyrazol-4-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
3-cyano-4-[2-(5-methyl-1-trityl-1H-pyrazol-4-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 428, 345 mg, 0.46 mmol) was dissolved in 4N HCl in 1,4-dioxane (5 ml) and stirred at room temperature for 3 hours before concentrating in vacuo. The residue obtained was purified using an ISCO™ (12 g SiO2) eluting with methanol:dichloromethane (gradient 0:1 to 1:9, by volume). The purified compound was triturated with dichloromethane (10 mL) to afford the title compound as a white solid (148 mg, 34%-isolated as the hydrochloride salt).

reactant | 3-cyano-4-[2-(5-methyl-1-trityl-1H-pyrazol-4-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.46 mmol, 345 mg | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)C(F)(F)F)C=1C=NN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)NC1=NC=NS1 | C39H27F3N6O3S2
solvent | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-cyano-4-[2-(5-methyl-1H-pyrazol-4-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)C(F)(F)F)C=1C=NNC1C)S(=O)(=O)NC1=NC=NS1 | C20H13F3N6O3S2
